US07151097B2
4-(4-Chlorophenyl)-2-hydroxy-4-oxo-but-2-enoic acid ethyl ester lithium salt I-6a (30.26 g, 116 mmoles) was suspended in 242 ml of ethanol. 2-Chlorophenylhydrazine hydrochloride (20.88 g, 116 mmoles) was added portionwise as a solid over 45 minutes while maintaining an internal temperature between 30–40° C. Note: Reaction mixture goes from a yellow suspension to a dark orange suspension. Reaction stirred for 3 hours while maintaining internal temperature between 25–35° C. An aqueous potassium hydroxide solution (148 ml of 1.8 M solution, 266 mmoles) was added over 20 minutes while maintaining an internal temperature between 20–30° C. The reaction mixture was held for 2.5 hours. Note: Within 30 minutes of potassium hydroxide solution addition, reaction turned almost clear, very dark rust orange in color. Aqueous hydrochloric acid (85 ml of 3.9 M solution, 331 mmoles) was added over 15 minutes while maintaining reaction temperature between 20–30° C. Note: Product precipitated during hydrochloric acid addition. The precipitated product was granulated for 16 hours at room temperature. The crude product was isolated by filtration and the filtercake was washed with 150 ml of water. Note: Filtercake was a yellowish orange solid. After air-drying for 30 minutes, the filtercake was suspended in 480 ml of methanol. This suspension was heated to reflux to give a clear dark orange solution (all solids in solution within 1 hour of reaching reflux) that was held at reflux for 8 hours. The solution was cooled over 4 hours to room temperature, during which time product had precipitated from solution. The reaction mixture was held at room temperature for 10 hours, followed by cooling to 0° C., and stirring for 1.5 hours. Collection of the precipitate by filtration, washing the resulting filtercake with 150 ml of ice-chilled methanol, and drying at 60° C. and 1 mm for 3 hours afforded 1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid I-6b (29.28 g, 76%) as an off-white solid.

reactant | 4-(4-Chlorophenyl)-2-hydroxy-4-oxo-but-2-enoic acid ethyl ester lithium salt | [Li].C(C)OC(C(=CC(=O)C1=CC=C(C=C1)Cl)O)=O
reactant | 2-Chlorophenylhydrazine hydrochloride | 116 mmoles, 20.88 g | Cl.ClC1=C(C=CC=C1)NN
reactant | potassium hydroxide | 266 mmoles, 1.8 M, 148 ml | [OH-].[K+]
reactant | hydrochloric acid | 331 mmoles, 3.9 M, 85 ml | Cl | ClH
solvent | ethanol | 242 ml | C(C)O | C2H6O
product | 1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC=C(C=C1)Cl)C(=O)O | C16H10Cl2N2O2
